US07307088B2
Step A: Preparation of 4-(1,1-dimethoxy-ethyl)-pyrimidin-2-ylamine
To guanidine hydrochloride salt (15 g, 156.68 mmol) was added sodium ethoxide, 21% wt in EtOH (59 mL, 156.68 mmol). After stirring for 5 min, 1-dimethylamino-4,4-dimethoxy-pent-1-en-3-one (Lipinski; J. Het. Chem., 22:1723 (1995)) (29.30 g, 156.68 mmol) in EtOH (50 mL) was added. The mixture was heated at 80° C. under N2 for 20 h, then cooled to RT. Solvent was evaporated in vacuo and the residue was re-dissolved in hot EtOAc (200 mL). The undissolved solid was separated by filtration and the solvent was evaporated in vacuo to give a pale yellow solid. MS m/z:184.3(M+H). Calc'd for C8H14N3O2: 184.21.

reactant | guanidine hydrochloride salt | 156.68 mmol, 15 g | Cl.NC(=N)N
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 1-dimethylamino-4,4-dimethoxy-pent-1-en-3-one | 156.68 mmol, 29.30 g | CN(C=CC(C(C)(OC)OC)=O)C | C9H17NO3
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | EtOH | 156.68 mmol, 59 mL | CCO | C2H6O
product | 4-(1,1-dimethoxy-ethyl)-pyrimidin-2-ylamine | COC(C)(OC)C1=NC(=NC=C1)N | C8H13N3O2
